US05654315
Potassium cyanide (2.6 g) was added to a stirred, two-phase mixture of 4-(chloromethyl)biphenyl (2.02 g) and tetrabutyl ammonium hydrogen sulphate (200 mg) in dichloromethane (50 ml). The reaction mixture was stirred at ambient temperature for 36 hours. The organic layer was separated and washed with water (10 ml), dried (MgSO4) and evaporated to give a solid residue which was crystallised from n-hexane to give 4-(cyanomethyl)biphenyl (1.3 g) as a solid, m.p. 95° C.; microanalysis, found: C, 86.3; H, 5.7; N, 7.2%; C14H11N .0.1H2O requires C, 86.2; H, 5.7; N, 7.18%.

reactant | Potassium cyanide | 2.6 g | [C-]#N.[K+]
reactant | 4-(chloromethyl)biphenyl | 2.02 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
catalyst | tetrabutyl ammonium hydrogen sulphate | 200 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(cyanomethyl)biphenyl | 1.3 g | C(#N)CC1=CC=C(C=C1)C1=CC=CC=C1 | C14H11N
